Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: The patient is a ___ female w/no significant PMHx
presenting with 2d of diarrhea, 1d of severe N/V with
epigastric/RUQ pain, and chills.  She was in her USOH until the
symptoms began 2d ago, diarrhea was "all day."  Was out with her
friends when her nausea worsened, she tried to go home to "sleep
it off" but it didn't improve, so she came in to the ED.  This
has happened twice before, once maybe a year ago, and once in 
___
this year.  Both those times it resolved fairly quickly.

In the ED: had had 1 beer with her friends while out the night
before. Initially left AMA on ___ with an rx for ondansetron. 
Returned w/inability to tolerate POs. Also c/o SOB w/N/V.  Exam
TTP in epigastrium.

On the floor, she is having persistent nausea and vomiting, and
appears uncomfortable, as well as unsettled given her ongoing
symptoms.  She confirms the above history, and notes that she 
has
been having chills, but no fevers.  She does endorse abdominal
pain.  She denies history of gallbladder problems in the family,
or biliary colic in herself.  We review her situation and the
plan of care.

ROS: [x] As per above HPI, otherwise reviewed and negative in 
all
systems

Primary Care Provider: ___

 
Past Medical History:
PMHx:
#Mild intermittent asthma - does not use any medications

PSHx:
Prior repair of a deviated nasal septum

 
Social History:
___
Family History:
___:
Denies any family history of gallbladder disease

 
Physical Exam:
Admission Physical Exam:
VS: T 98.0, BP 94/60, HR 63, RR 16, O2 sat 98% on RA
Young woman lying in bed, later heaving and producing saliva,
nonbilious, nonbloody, otherwise alert, cooperative, NAD. 
Anicteric, MMM.  Equal chest rise, CTAB posteriorly, no WOB or
cough.  Heart regular, no obvious murmurs rubs or gallops. 
Abdomen soft, but tender in the epigastrium and also somewhat in
the right upper quadrant, moderately so, with no rebound or
guarding.  Extremities warm and well-perfused, no pitting edema. 

Neurologically she is moving all extremities equally, and able 
to
move around without assistance.  Her affect is initially 
somewhat
anxious, and she appears a bit short of breath and she is having
her nausea prior to vomiting, and after vomiting appears much
more calm.

Discharge Physical Exam:
VS: 98.7 103/67 57 16 99 RA 
Lying in bed, NAD
Anicteric, MMM.  Equal chest rise, CTAB posteriorly, no WOB or
cough.  Heart regular, no obvious murmurs rubs or gallops. 
Abdomen soft, but tender in the epigastrium and also somewhat in
the right upper quadrant, moderately so, with no rebound or
guarding.  Extremities warm and well-perfused, no pitting edema. 

Neurologically she is moving all extremities equally, and able 
to
move around without assistance.

 
Pertinent Results:
Admission Labs:
===============
___ 05:15AM BLOOD WBC-23.5*# RBC-4.74 Hgb-13.5 Hct-41.0 
MCV-87 MCH-28.5 MCHC-32.9 RDW-12.7 RDWSD-40.2 Plt ___
___ 05:15AM BLOOD Neuts-85.0* Lymphs-7.7* Monos-6.0 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-19.95*# AbsLymp-1.81 
AbsMono-1.40* AbsEos-0.01* AbsBaso-0.04
___ 07:00PM BLOOD ___ PTT-28.5 ___
___ 05:15AM BLOOD Glucose-111* UreaN-12 Creat-0.6 Na-143 
K-4.1 Cl-102 HCO3-15* AnGap-26*
___ 05:15AM BLOOD ALT-33 AST-45* AlkPhos-70 TotBili-0.5
___ 07:00PM BLOOD Albumin-4.4 Calcium-8.5 Phos-1.9* Mg-2.2
___ 05:15AM BLOOD Ethanol-30*
___ 12:44AM BLOOD Lactate-1.3

Imaging:
=========
___ CT Abd/Pelvis:
1. Small to moderate  amount of ascites, minimally complex 
within the pelvis, may be secondary to a ruptured corpus luteum 
but a ruptured ectopic cannot be fully excluded.  Recommend 
pelvic ultrasound. 
2. Small right pleural effusion. 
3. Gallbladder wall edema likely secondary to third spacing.  
Periportal edema (from hydration?) 

___ Pelvic US (Transabdominal):
Transabdominal study only.  Limited assessment of the ovaries.  
Ovaries normal in size.  No large adnexal mass seen.  Ovaries 
are not optimally assessed due to lack of transvaginal 
examination and assessment for right corpus luteum is 
essentially nondiagnostic on this study. 
Pelvic free fluid, better assessed on preceding CT. 

___ RUQ US:
1. Trace perihepatic ascites.  Small right pleural effusion. 
2. Hepatic parenchyma appears normal. 
3. No cholelithiasis.  Gallbladder wall edema, likely from 
third-spacing. 

Discharge Labs:
===============
___ 07:50AM BLOOD WBC-11.6* RBC-4.41 Hgb-12.8 Hct-38.0 
MCV-86 MCH-29.0 MCHC-33.7 RDW-12.9 RDWSD-40.5 Plt ___
___ 07:50AM BLOOD Glucose-66* UreaN-9 Creat-0.5 Na-141 
K-3.7 Cl-102 HCO3-22 AnGap-17*
___ 07:00PM BLOOD ALT-74* AST-76* AlkPhos-55 TotBili-1.0
___ 07:50AM BLOOD Calcium-8.2* Phos-2.6* Mg-2.___ with no significant PMH who presented with abdominal pain 
and nausea/vomiting.

She reported approximately two days of diarrhea, RUQ pain, and 
nausea/vomiting. Diarrhea resolved without intervention. She 
initially presented to ED on ___ and left AMA, but then 
returned later that same day when symptoms did not improve. Labs 
were notable for a leukocytosis of 23.5 (subsequently 17.9, 
16.7, then 11.6 on discharge). LFTs were notable for ALT 74, AST 
75, AP 55, and tbili 1.0. CT Abd/Pelvis revealed a small to 
moderate amount of ascites, minimally complex within the pelvis, 
may be secondary to a ruptured corpus luteum but a ruptured 
ectopic cannot be fully excluded. Also noted a small right 
pleural effusion and gallbladder wall edema. Pelvic ultrasound 
was obtained but was limited for assessment of the ovaries given 
it was transabominal only; however no large adnexal masses or 
other abnormalities were visualized. RUQ US was notable for 
gallbladder wall edema without evidence of cholelithiasis. Given 
her pain, leukocytosis, LFT abnormalities, and gallbladder wall 
edema, surgery was consulted and recommended a HIDA scan to rule 
out cholecystitis. She did not want to remain in the hospital to 
obtain the HIDA scan and elected to leave against medical 
advice. She understand the possibility that she could have 
cholecystitis or an as yet undetermined intra-abdominal 
infection. She understood that she could die without treatment 
of cholecystitis or other serious infection, but reported that 
she would seek care at another hospital instead. She was advised 
to report to ___ (her preferred hospital) or another hospital 
directly after discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Abdominal pain
Nausea/vomiting
Leukocytosis
Elevated LFTs

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came into the hospital with abdominal pain and 
nausea/vomiting. We were concerned that you might have an 
infection in your gallbladder. We recommended a special test 
called a HIDA scan but you did not want to wait to have this 
test performed. You are leaving the hospital against medical 
advice. Please go to another hospital for further evaluation. 
Please go to the ED immediately if you have any worsening pain, 
vomiting, fevers, or any other symptoms that concern you.
 
Followup Instructions:
___